US06054448
Cis-2-amino-2-(3-carboxycyclobutyl)-4-(10,10-dioxido-9-thioxanthyl)butanoic acid
A mixture of cis-2-methoxycarbonyl-2-(3-methoxy carbonylcyclobutyl)-4-(10,10-dioxido-9-thioxanthyl)butanoic acid (0.87 g, 1.79 mmol), triethylamine (0.19 g, 1.88 mmol) and diphenyl phosphonic azide (0.33 g, 1.88 mmol) in toluene (30 ml) were heated at 75° C. and worked up following the procedure described in Example 17(iii). The crude product was purified by chromatography on flash silica eluting with diethyl ether-hexane (7:3) to give a colourless oil and then crystallised from diethyl ether to give the title compound.

reactant | cis-2-methoxycarbonyl-2-(3-methoxy carbonylcyclobutyl)-4-(10,10-dioxido-9-thioxanthyl)butanoic acid | 1.79 mmol, 0.87 g | COC(=O)C(C(=O)O)(CCC1C2=CC=CC=C2S(C=2C=CC=CC12)(=O)=O)[C@@H]1C[C@@H](C1)C(=O)OC | C25H26O8S
reactant | triethylamine | 1.88 mmol, 0.19 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | Cis-2-amino-2-(3-carboxycyclobutyl)-4-(10,10-dioxido-9-thioxanthyl)butanoic acid | NC(C(=O)O)(CCC1C2=CC=CC=C2S(C=2C=CC=CC12)(=O)=O)[C@@H]1C[C@@H](C1)C(=O)O | C22H23NO6S
